US07932271B2
N-[5-Chloro-4-[(2,5-difluorophenyl)(3,4-difluorophenylsulfonyl)methyl]pyridin-2-yl]-N-(methylsulfonyl)methanesulfonamide
Under a nitrogen atmosphere, methanesulfonyl chloride (0.034 ml, 0.44 mmol), triethylamine (0.062 ml, 0.44 mmol) and 4-dimethylaminopyridine (4 mg, 0.03 mmol) were added to a dichloromethane (3 ml) solution of [5-chloro-4-[(2,5-difluorophenyl)(3,4-difluorophenylsulfonyl)methyl]pyridin-2-yl]amine (63 mg, 0.15 mmol) at 0° C. The resulting mixture was stirred at room temperature for 17 hours. The reaction mixture was washed with 1N hydrochloric acid. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=3:1 eluate was concentrated under reduced pressure to give the title compound (73 mg, 0.12 mmol, 85%) as a white solid.

reactant | methanesulfonyl chloride | 0.44 mmol, 0.034 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.44 mmol, 0.062 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | [5-chloro-4-[(2,5-difluorophenyl)(3,4-difluorophenylsulfonyl)methyl]pyridin-2-yl]amine | 0.15 mmol, 63 mg | ClC=1C(=CC(=NC1)N)C(S(=O)(=O)C1=CC(=C(C=C1)F)F)C1=C(C=CC(=C1)F)F | C18H11ClF4N2O2S
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane | CCCCCC | C6H14
product | N-[5-Chloro-4-[(2,5-difluorophenyl)(3,4-difluorophenylsulfonyl)methyl]pyridin-2-yl]-N-(methylsulfonyl)methanesulfonamide | 0.12 mmol, 73 mg, 85% | ClC=1C(=CC(=NC1)N(S(=O)(=O)C)S(=O)(=O)C)C(S(=O)(=O)C1=CC(=C(C=C1)F)F)C1=C(C=CC(=C1)F)F | C20H15ClF4N2O6S3
